US05445762
7,13-Bis((1-adamantyl)acetyl )-1,4,10-trioxa-7,13-diazacyclopentadecane
Analogously to Example 2 from 1,4,10-trioxa-7,13-diazacyclopentadecane and (1-adamantyl) acetyl chloride.

reactant | 1,4,10-trioxa-7,13-diazacyclopentadecane | O1CCOCCNCCOCCNCC1 | C10H22N2O3
reactant | (1-adamantyl) acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
product | 7,13-Bis((1-adamantyl)acetyl )-1,4,10-trioxa-7,13-diazacyclopentadecane | C12(CC3CC(CC(C1)C3)C2)CC(=O)N2CCOCCOCCN(CCOCC2)C(CC23CC1CC(CC(C2)C1)C3)=O | C34H54N2O5
